US07598423B2
Synthesis of 1-[2-hydroxy-4-(4-{hydroxy-[3-(5-mercapto-4H-[1,2,4]triazol-3-yl)-phenyl]-methyl}-benzyloxy)-3-methyl-phenyl]-ethanone
Stir a solution of 1-(2-hydroxy-4-{4-[[3-(5-mercapto-4H-[1,2,4]triazol-3-yl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzyloxy}-3-methyl-phenyl)-ethanone (1.12 g, 2.04 mmol) and p-toluenesulfonic acid (50 mg) in methanol (0.2M). Dilute with ethyl acetate and wash with water. Dry the organic layer and concentrate to afford the title compound (0.250 g, 0.551 mmol, 27% overall from acid chloride). 1H NMR (400 MHz, DMSO-d6) δ 2.02 (s, 3H), 2.50 (s, 3H), 5.21 (s, 2H), 5.76 (s, 1H), 6.05 (s, 1H), 6.71 (d, J=9.4 Hz, 1H), 7.39 (m, 6H), 7.53 (m, 1H), 7.73 (m, 1H), 7.78 (d, J=9.0 Hz, 1H), 7.98 (s, 1H), 12.83 (s, 1H). MS (m/z): 460 (M−H).

reactant | 1-(2-hydroxy-4-{4-[[3-(5-mercapto-4H-[1,2,4]triazol-3-yl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzyloxy}-3-methyl-phenyl)-ethanone | 2.04 mmol, 1.12 g | OC1=C(C=CC(=C1C)OCC1=CC=C(C=C1)C(OC1OCCCC1)C1=CC(=CC=C1)C1=NN=C(N1)S)C(C)=O | C30H31N3O5S
reactant | p-toluenesulfonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 0.2M | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[2-hydroxy-4-(4-{hydroxy-[3-(5-mercapto-4H-[1,2,4]triazol-3-yl)-phenyl]-methyl}-benzyloxy)-3-methyl-phenyl]-ethanone | OC1=C(C=CC(=C1C)OCC1=CC=C(C=C1)C(C1=CC(=CC=C1)C1=NN=C(N1)S)O)C(C)=O | C25H23N3O4S
